US07750156B2
1.00 g of 1-methylpiperadine and 2.24 g of 1,4-cyclohexanedione were heated with stirring in 15 ml of ethanol at 50° C. to 60° C. and reacted in air for 8 hours. During the reaction, ethanol was added as needed. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure and the resultant was purified by silica gel column chromatography (ethyl acetate:methanol=3:1) and 0.65 g of 1-(4-hydroxyphenyl)-4-methylpiperadine was obtained (yield 33.9%).

reactant | 1-methylpiperadine | 1.00 g | CN1CCCCC1 | C6H13N
reactant | 1,4-cyclohexanedione | 2.24 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(4-hydroxyphenyl)-4-methylpiperadine | 0.65 g, yield 33.9% | OC1=CC=C(C=C1)N1CCC(CC1)C | C12H17NO
